US03984465
To a stirred suspension of 2-cyclopentyl-2-methyl-5-methylthio-6,7-dichloro-1-indanone (3.59 g., 0.01 mole) in liquid ammonia (100 ml.) cooled in a dry-ice-acetone bath is added sodium (460 mg., 0.02 gr. atom) in small portions until a permanent blue color persists. Ammonium chloride (1.0 g.) is added, the excess ammonia is evaporated and the reaction mixture is dissolved in water, acidified and extracted with ether which is washed with water, dried over magnesium sulfate and evaporated at reduced pressure affording 2-cyclopentyl-2-methyl-5-mercapto-6,7-dichloro-1-indanone.

reactant | 2-cyclopentyl-2-methyl-5-methylthio-6,7-dichloro-1-indanone | 0.01 mole, 3.59 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)SC)Cl)Cl)=O)C | C16H18Cl2OS
reactant | sodium | 460 mg | [Na] | Na
reactant | Ammonium chloride | 1.0 g | [Cl-].[NH4+]
solvent | ammonia | 100 ml | N | H3N
product | 2-cyclopentyl-2-methyl-5-mercapto-6,7-dichloro-1-indanone | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)S)Cl)Cl)=O)C | C15H16Cl2OS
